US05482974
To a solution of 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzaldehyde (8.40 g, 40.0 mmol) in t-butanol (200 mL) was added 1.25M KH2PO4 (pH 7, 200 mL) and 0.4M aqueous potassium permanganate (200 mL, 80 mmol). The reaction was stirred at room temperature for 3 h and was quenched by the addition of saturated aqueous sodium sulfite (200 mL). The brown suspension was acidified with 2N HCl with ice-cooling until the MnO2 dissolved (pH 4). The reaction was extracted with ethyl acetate (3 times) and the organic layers were washed with brine, dried (MgSO4) and concentrated to a white solid. The crude product was recrystallized from hexanes at 0° C. to afford 7.14 g (78%) of 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzoic acid as white crystals: mp 117°-119° C.

reactant | 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzaldehyde | 40.0 mmol, 8.40 g | CC(C)(C)OC1=C(C=O)C(=CC=C1)Cl | C11H13ClO2
reactant | KH2PO4 | 1.25M, 200 mL, pH 7 | OP(=O)(O)[O-].[K+]
reactant | potassium permanganate | 80 mmol, 0.4M, 200 mL | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | t-butanol | 200 mL | C(C)(C)(C)O | C4H10O
product | 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzoic acid | 7.14 g, 78% | CC(C)(C)OC1=C(C(=O)O)C(=CC=C1)Cl | C11H13ClO3
